US07271264B2
Methanesulfonic acid 6-(4-fluoro-2-hydroxymethyl-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester
Charge a 100 mL round bottom flask with trifluoro-methanesulfonic acid 6-methanesulfonyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (2.3 g, 3.8 mmol), 5-fluoro-3H-benzo[c][1,2]oxaborol-1-ol (1.16 g, 7.6 mmol) and Pd(PPh3)4 (220 mg, 0.19 mmol) and purge with nitrogen. Add degassed DME (36 mL) and 2M Na2CO3 (4 mL) to the flask and plunge into a 75° C. oil bath and stir overnight. Pour the reaction into saturated aqueous sodium bicarbonate and extract with methylene chloride. Wash the organic layer with water and dry with sodium sulfate. Filter and concentrate to an amber foam. Purify the crude material on silica gel (1% to 6% methanol in methylene chloride) to yield 1.6 g (73%) of the title compound as a tan foam. 1H NMR (CDCl3) δ7.98 (d, J=8.4 Hz, 1H), 7.90 (d, J=2.5 Hz, 1H), 7.60 (bs, 3H), 7.43 (d, J=8.4 Hz, 1H), 7.35 (d, J=8.6 Hz, 1H), 7.23 (bs, 11), 6.90-6.70 (m, 4H), 4.40-4.25 (m, 2H), 4.12 (m, 2H), 3.23 (s, 3H), 2.76 (t, J=5.4 Hz, 2H), 2.49 (bs, 4H), 1.59 (m, 5H), 1.45 (m, 1H).

reactant | trifluoro-methanesulfonic acid 6-methanesulfonyloxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 3.8 mmol, 2.3 g | CS(=O)(=O)OC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO8S2
reactant | 5-fluoro-3H-benzo[c][1,2]oxaborol-1-ol | 7.6 mmol, 1.16 g | FC1=CC2=C(B(OC2)O)C=C1 | C7H6BFO2
catalyst | Pd(PPh3)4 | 0.19 mmol, 220 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methanesulfonic acid 6-(4-fluoro-2-hydroxymethyl-phenyl)-5-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 1.6 g, 73% | FC1=CC(=C(C=C1)C=1C(=C2C=CC(=CC2=CC1)OS(=O)(=O)C)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)CO | C32H32FNO6S
